US06677337B2
Preparation of 4-[4-(4-Fluorophenyl)-2-methyl-3-(2-methylsulfanyl-pyrimidin-4-yl)-5-oxo-2,5-dihydro-pyrazol-1-yl]-piperidine-1 carboxylic acid tert-butyl ester (18).
To a 0° C. solution of 4-{N-[2-(4-fluoro-phenyl)-acetyl]-N′-methyl-N′-(2-methylsulfanyl-pyrimidine-4-carbonyl)-hydrazino}-piperidine-1-carboxylic acid tert-butyl ester, 17, (26.7 g, 51.7 mmol) in DMF (50 mL) is slowly added NaH (3.1 g of a 60% dispersion in mineral oil, 77.55 mmol). The reaction mixture is stirred for 0.5 h at 0° C. and then quenched with 1.0 N HCl. The aqueous layer is extracted threee times with CH2Cl2. The combined organic layers are dried (MgSO4), filtered and concentrated in vacuo. Purification over silica (100% EtOAc) affords 12 g (45% yield) of the desired product: 1H NMR (300 MHz, CDCl3) δ 8.50 (d, J=4.9 Hz, 1H), 7.35-7.29 (m, 2H), 7.02 (t, J=6.8 Hz, 2H), 6.85 (d, J=5.1 Hz, 1H), 4.42-4.32 (m, 3H), 3.28 (s, 3H), 2.88 (t, 12.8 Hz, 2H), 2.58 (s, 3H), 2.79-2.39 (m, 2H), 1.94 (d, J=11.7 Hz, 2H), 1.50 (s, 9H); ESI/MS: 500.3 (M+H).

reactant | 4-{N-[2-(4-fluoro-phenyl)-acetyl]-N′-methyl-N′-(2-methylsulfanyl-pyrimidine-4-carbonyl)-hydrazino}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(N(C(=O)C1=NC(=NC=C1)SC)C)C(CC1=CC=C(C=C1)F)=O | C25H32FN5O4S
reactant | NaH | [H-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-[4-(4-Fluorophenyl)-2-methyl-3-(2-methylsulfanyl-pyrimidin-4-yl)-5-oxo-2,5-dihydro-pyrazol-1-yl]-piperidine-1 carboxylic acid tert-butyl ester | 12 g, 45% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N(C(=C(C1=O)C1=CC=C(C=C1)F)C1=NC(=NC=C1)SC)C | C25H30FN5O3S
